US09340559B2
Preparation 5. Bortezomib
A 100 ml three neck round bottom flask is equipped with a stir bar, thermocouple and nitrogen inlet/outlet then charged with 5.0 g (10.4 mmol) of (2S)—N-[(1R)-1-(1,3,6,2-dioxazaborocan-2-yl)-3-methylbutyl]-3-phenyl-2-(pyrazin-2-ylformamido)propanamide (i.e., diethanolamine ester of bortezomib), 50 ml of methanol and 10.4 ml of 2N aqueous hydrochloric acid. The reaction is stirred at room temperature overnight before removing the solvent in vacuo at 40° C. The resulting residue is dissolved in 50 ml of ethyl acetate and washed with saturated sodium bicarbonate (1×50 mL) before once again concentrating the organic layer to dryness in vacuo. The residue is then triturated overnight at room temperature with 50 mL of pentane under nitrogen. The resulting free flowing solids are collected by vacuum filtration, washed with pentane (1×20 ml) then dried in a vacuum oven at 30° C. overnight to provide 3.29 g (8.56 mmol, 82.3%) of the title compound as a white solid with chemical purity >99.8 A % and a 93.5:6.5 ratio of diastereomers (i.e., 87% de). 1H NMR (d4-MeOH, 400 MHz) δ 9.15 (d, 1H, J=1.36 Hz), 8.77 (d, 1H, J=2.48 Hz), 8.68 (dd, 1H, J=1.52, 2.44 Hz), 7.27 (m, 4H), 7.21 (m, 1H), 5.05 (t, 1H, J=7.68 Hz), 3.2 (m, 2H), 2.66 (t, 1H, J=7.56 Hz), 1.39 (m, 1H), 1.17 (t, 2H, J=7.12 Hz), 0.83 (dd, 6H, J=5.32, 6.40 Hz).

reactant | (2S)—N-[(1R)-1-(1,3,6,2-dioxazaborocan-2-yl)-3-methylbutyl]-3-phenyl-2-(pyrazin-2-ylformamido)propanamide | 10.4 mmol, 5.0 g | O1B(OCCNCC1)[C@H](CC(C)C)NC([C@H](CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O | C23H32BN5O4
reactant | hydrochloric acid | 2N, 10.4 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | Bortezomib | 8.56 mmol, 3.29 g, 82.3% | B([C@H](CC(C)C)NC(=O)[C@H](CC=1C=CC=CC1)NC(=O)C=2C=NC=CN2)(O)O | C19H25BN4O4
